US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 2-(2-benzofuranyl)-4-chloromethyl oxazole to give 2-(2-benzofuranyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 85%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 122-123° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 2-(2-benzofuranyl)-4-chloromethyl oxazole | O1C(=CC2=C1C=CC=C2)C=2OC=C(N2)CCl | C12H8ClNO2
product | 2-(2-benzofuranyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 85% | O1C(=CC2=C1C=CC=C2)C=2OC=C(N2)COC2=CC=C(C=C2)CCCN2C=NC=C2 | C24H21N3O3
